US05681954
3-[2-[4-(3-Chloro-2-methylphenyl)-1-piperazinyl]ethyl]-5,6-dimethoxy-1-(4-imidazolylmethyl)-1H-indazole-2HCl.3.5H2O
A mixture of 4.95 g of 3-[2-[4-(3-chloro-2-methylphenyl)-1-piperazinyl]ethyl]-5,6-dimethoxy-1-(4-imidazolylmethyl)-1H-indazole and 20 ml of 1N hydrochloric acid was stirred and to the mixture was added water till the overall volume reached to 49.5 ml. The suspension was refluxed with stirring till the mixture turned to a clear solution. After cooling to, room temperature, the solution was stirred at that temperature for overnight. A precipitated crystal was collected by filtration. The crystal was dried under atmospheric pressure for two days to yield 5.5 g of the titled compound as a colorless prism.

reactant | 3-[2-[4-(3-chloro-2-methylphenyl)-1-piperazinyl]ethyl]-5,6-dimethoxy-1-(4-imidazolylmethyl)-1H-indazole | 4.95 g | ClC=1C(=C(C=CC1)N1CCN(CC1)CCC1=NN(C2=CC(=C(C=C12)OC)OC)CC=1N=CNC1)C | C26H31ClN6O2
reactant | hydrochloric acid | 1N, 20 ml | Cl | ClH
solvent | water | O | H2O
product | 3-[2-[4-(3-Chloro-2-methylphenyl)-1-piperazinyl]ethyl]-5,6-dimethoxy-1-(4-imidazolylmethyl)-1H-indazole-2HCl | 5.5 g | Cl.Cl.ClC=1C(=C(C=CC1)N1CCN(CC1)CCC1=NN(C2=CC(=C(C=C12)OC)OC)CC=1N=CNC1)C | InChI=1S/C26H31ClN6O2.2ClH/c1-18-21(27)5-4-6-23(18)32-11-9-31(10-12-32)8-7-22-20-13-25(34-2)26(35-3)14-24(20)33(30-22)16-19-15-28-17-29-19;;/h4-6,13-15,17H,7-12,16H2,1-3H3,(H,28,29);2*1H
